US06458780B1
b) 7-Trifluoroacetyl-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole
A 1.0 N lithiumbis(trimethylsilyl)amide/THF solution (2.0 ml) was added to a solution of 0.34 g of 7-trifluoroacetylimidazo[5,1-b]thiazole and 0.48 ml of tri-n-butylstannyl chloride in 16 ml of dry THF in an argon atmosphere at −40° C. The mixture was stirred at the same temperature for 30 min. A saturated aqueous ammonium chloride solution was added thereto. Ethyl acetate was then added, followed by washing with water and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give 0.14 g of the title compound.

reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N, 2.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | 7-trifluoroacetylimidazo[5,1-b]thiazole | 0.34 g | FC(C(=O)C=1N=CN2C1SC=C2)(F)F | C7H3F3N2OS
reactant | tri-n-butylstannyl chloride | 0.48 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Trifluoroacetyl-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole | 0.14 g | FC(C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC)(F)F | InChI=1S/C7H2F3N2OS.3C4H9.Sn/c8-7(9,10)5(13)4-6-12(3-11-4)1-2-14-6;3*1-3-4-2;/h1,3H;3*1,3-4H2,2H3;
